US05387582
Preparation 21: Methyl 2-(2-bromoethyl)-benzoate
2-(2-Bromoethyl)-benzoic acid (11.4 g, 50 mmol) is added to a solution of diazomethan in ether at 0° C. The reaction mixture is concentrated in vacuo, and the residue purified by chromatography to give the desired compound as a colourless oil.

reactant | 2-(2-Bromoethyl)-benzoic acid | 50 mmol, 11.4 g | BrCCC1=C(C(=O)O)C=CC=C1 | C9H9BrO2
reactant | diazomethan | [N+](=[N-])=C | CH2N2
solvent | ether | CCOCC | C4H10O
product | Methyl 2-(2-bromoethyl)-benzoate | BrCCC1=C(C(=O)OC)C=CC=C1 | C10H11BrO2
